US05380850
Step A: Methyl 3-[6-methoxy-3-(t-butylthio) indol-2-yl]-2,2-dimethylpropanoic acid
A mixture of 4.2 g of 3-methoxyphenylhydrazine hydrochloride and 4.9 g of methyl 5-(t-butylthio)-2,2-dimethyl-4-oxopentanoate in 100 mL of t-butanol was refluxed for 18 hours. The mixture was cooled to R.T., and evaporated to dryness. The residue was suspended in ether (150 ml) and stirred for 30 min. The salts were filtered and the filtrate evaporated to dryness to give a residue which was chromatographed on flash silica gel using as eluant ethyl acetate:toluene (1:99) to isolate the title compound as the most polar product; m.p. 133° C.

reactant | 3-methoxyphenylhydrazine hydrochloride | 4.2 g | Cl.COC=1C=C(C=CC1)NN
reactant | methyl 5-(t-butylthio)-2,2-dimethyl-4-oxopentanoate | 4.9 g | C(C)(C)(C)SCC(CC(C(=O)OC)(C)C)=O | C12H22O3S
reactant | t-butanol | 100 mL | C(C)(C)(C)O | C4H10O
product | Methyl 3-[6-methoxy-3-(t-butylthio) indol-2-yl]-2,2-dimethylpropanoic acid | CC(C(C(=O)O)(C)C)C=1NC2=CC(=CC=C2C1SC(C)(C)C)OC | C19H27NO3S
